US07323472B2
To a solution of 4-chloro-2-methylsulfanyl-6-phenylamino-pyrimidine-5-carbaldehyde (300 mg, 1.07 mmol) in dioxane (21 mL) and H2O (7 mL) was added anhyd K2CO3 (443 mg, 3.21 mmol, 3 eq) followed by phenylboronic acid (196 mg, 1.6 mmol, 1.5 eq). The reaction mixture was degassed and tetrakis(triphenylphophine)-palladium (61 mg, 0.053 mmol, 0.05 eq) was added. The reaction mixture was then heated under reflux for 24 h and cooled 23°, the layers were separated, EtOAc (50 mL), followed by H2O (10 mL), was added, the organic layer was separated, washed with satd aq NaCl, dried (MgSO4) and filtered. The yellow solution was then evaporated. Product was purified by column chromatography or by crystallization from 10 mL of isopropanol: H2O (2:1) to give 240 mg (70% yield) of pure 2-methylsulfanyl-4-phenyl-6-phenylamino-pyrimidine-5-carbaldehyde. 1H-NMR δ 2.60 (s, 3H), 7.22 (m, 1H), 7.35-7.81 (m, 9H), 9.89 (s, 1H), 11.31 (br s, 1H), LC MS (m/e)=322 (MH+).

reactant | 4-chloro-2-methylsulfanyl-6-phenylamino-pyrimidine-5-carbaldehyde | 1.07 mmol, 300 mg | ClC1=NC(=NC(=C1C=O)NC1=CC=CC=C1)SC | C12H10ClN3OS
reactant | K2CO3 | 3.21 mmol, 443 mg, 3 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | phenylboronic acid | 1.6 mmol, 196 mg, 1.5 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane | 21 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 7 mL | O | H2O
product | 2-methylsulfanyl-4-phenyl-6-phenylamino-pyrimidine-5-carbaldehyde | 240 mg, 70% yield | CSC1=NC(=C(C(=N1)C1=CC=CC=C1)C=O)NC1=CC=CC=C1 | C18H15N3OS
